US07582123B2
Synthesis of 3-amino-2-{[(1E)-2-amino-3-chloro-5-methyl-4-oxocyclohexa-2,5-dien-1-ylidene]amino}-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazol-1-one
0.58 mmol of 2,3-diamino-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazol-1-one dimethane sulphonate was dissolved in a mixture of water and ethanol (7.5 ml/1.5 ml). This solution was admixed with 0.58 mmol of 3-amino-2-chloro-6-methylphenol, then with 1.8 ml of concentrated aqueous ammonia, then with 9 ml of hydrogen peroxide.

reactant | 2,3-diamino-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazol-1-one dimethane sulphonate | 0.58 mmol | CS(=O)(=O)O.CS(=O)(=O)O.NC1=C(N2N(CCC2)C1=O)N
reactant | 3-amino-2-chloro-6-methylphenol | 0.58 mmol | NC=1C(=C(C(=CC1)C)O)Cl | C7H8ClNO
reactant | ammonia | 1.8 ml | N | H3N
reactant | hydrogen peroxide | 9 ml | OO | H2O2
solvent | water | O | H2O
solvent | ethanol | 7.5 ml | C(C)O | C2H6O
product | 3-amino-2-{[(1E)-2-amino-3-chloro-5-methyl-4-oxocyclohexa-2,5-dien-1-ylidene]amino}-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazol-1-one | NC1=C(C(N2N1CCC2)=O)/N=C\2/C(=C(C(C(=C2)C)=O)Cl)N | C13H14ClN5O2
